US07709500B2
3-Cyano-N-{(2S)-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}benzenesulfonamide
To a solution of (2-R)-1-amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol (0.200 g, 0.63 mmol) in 4 ml of pyridine at 0° C. was added 3-cyanobenzenesulfonyl chloride (0.127 g, 0.63 mmol). After 30 min, the reaction was allowed to warm to room temperature and was stirred for 2 h. The reaction was concentrated under vacuum, and the residue partitioned between 10% aqueous sodium hydrogen carbonate and ethyl acetate. The organic layer was washed with water, then brine and dried over magnesium sulfate. The crude material was purified on silica gel (0 to 5% 7N ammonia in methanol/dichloromethane) to afford the title compound as a white foam (0.120 g).

reactant | (2-R)-1-amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol | 0.63 mmol, 0.200 g | NC[C@H](CN1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl)O | C14H20Cl2N2O2
reactant | 3-cyanobenzenesulfonyl chloride | 0.63 mmol, 0.127 g | C(#N)C=1C=C(C=CC1)S(=O)(=O)Cl | C7H4ClNO2S
solvent | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
product | 3-Cyano-N-{(2S)-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}benzenesulfonamide | 0.120 g | C(#N)C=1C=C(C=CC1)S(=O)(=O)NC[C@H](CN1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl)O | C21H23Cl2N3O4S
